### PR TITLE
Comparable class

### PR DESCRIPTION
**Pull request by start974**

### CODE REVIEW

File: theories/ordinals/Epsilon0/Paths.v [hunk 1]
```diff
@@ -2674,15 +2671,17 @@ Section Constant_to_standard_Proof.
 
   Remark R19 : beta t1<= gamma.
   Proof.
-    generalize Rem10;unfold P; fold gamma;unfold le_b, lt_b.
-    case_eq (T1.compare gamma beta).
-    - intros H H0; generalize (compare_Eq_impl _ _ H).
-      intro H1; rewrite H1; apply LE_refl; eapply LT_nf_r; eauto.
+    generalize Rem10;unfold P; fold gamma ;unfold le_b, lt_b.
```
Comment (start974) [inline theories/ordinals/Epsilon0/Paths.v:2674]:
```suggestion
    generalize Rem10; unfold P; fold gamma ;unfold le_b, lt_b.
```

File: theories/ordinals/Epsilon0/T1.v [hunk 2]
```diff
@@ -106,8 +106,7 @@ Definition omega_term (alpha:T1)(k:nat) :=
   ocons alpha k zero.
 
 
-(**  omega towers 
-*)
+(**  omega towers **)
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:109]:
```suggestion
(**  omega towers 
*)
```

File: theories/ordinals/Epsilon0/T1.v [hunk 3]
```diff
@@ -719,252 +704,203 @@ Proof.
...
+  le alpha beta ->
+  {alpha = beta} + {lt alpha beta}.
 Proof.
-  unfold le, lt, lt_b; intro H; case_eq (compare alpha beta).
-  - left; generalize (compare_reflect alpha beta); now rewrite H0.
-  - right; auto. 
-  -  intro H0; rewrite H0 in H; contradiction. 
+  unfold le.
+  intro Hle.
+  destruct (compare alpha beta) eqn:Hcomp.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:713]: Can use tactic `compare destruct alpha beta as Hcomp`.

File: theories/ordinals/Epsilon0/T1.v [hunk 4]
```diff
@@ -719,252 +704,203 @@ Proof.
...
+    destruct Hle.
+    + now apply lt_not_gt in Hcomp.
+    + subst; now apply lt_irrefl in Hcomp.
 Defined.
 
 Lemma lt_succ (alpha : T1) : lt alpha (succ alpha).
 Proof.
   induction alpha; cbn; auto with T1.
-  - destruct alpha1; cbn ; auto with T1.   
+  - destruct alpha1; cbn ; auto with T1.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:728]:
```suggestion
  - destruct alpha1; cbn; auto with T1.
```

File: theories/ordinals/Epsilon0/T1.v [hunk 5]
```diff
@@ -980,48 +916,53 @@ Lemma nf_tail_lt_nf b b':
...
-                               nf b ->
-                               lt b  (ocons a 0 zero) -> 
-                               nf (ocons a n b).
+Lemma nf_intro : 
+  forall a n b,
+  nf a ->
+  nf b ->
+  nf_helper b a ->
+  nf (ocons a n b).
+Proof.  destruct 3;  eauto with T1. Qed.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:958]:
```suggestion
Proof. destruct 3; eauto with T1. Qed.
```

File: theories/ordinals/Epsilon0/T1.v [hunk 6]
```diff
@@ -1081,160 +1025,53 @@ Qed.
...
-Lemma compare_Gt_eq : forall a b:T1 , lt b  a  -> compare a b = Gt.
-Proof.
-  intros a b; generalize (compare_reflect a b);  
-    case (compare a b);auto.
-  - intros e H;subst b;case (lt_irrefl H).
-  -  intros H1 H2;case (lt_not_gt H2);auto.
-Qed.
 
-Theorem compare_reflectR ( alpha  beta : T1) :
+Theorem compare_reflectR ( alpha beta : T1) : (** TODO make this lemma **)
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:1051]:
```suggestion
Theorem compare_reflectR ( alpha beta : T1) :
```

File: theories/ordinals/Epsilon0/T1.v [hunk 7]
```diff
@@ -1820,67 +1660,71 @@ Proof.
...
-       *  intro H7; rewrite plus_ocons_ocons_rw3;auto.
-          apply nf_helper_inv  in H3; auto with T1. 
-Qed.
-
-Lemma ap_plusR : forall c, nf c -> c <> zero ->
-                           (forall a b, nf a -> nf b ->  lt a  c ->
-                                        lt b  c -> lt (a + b) c)  ->
-                           ap c.
+    + simpl; auto with T1. 
+    + simpl;auto.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:1664]:
```suggestion
    + simpl; auto.
```

File: theories/ordinals/Epsilon0/T1.v [hunk 8]
```diff
@@ -1820,67 +1660,71 @@ Proof.
...
+  - intros c H0 n t H c0 H1 H2 H3 H4;  generalize c0 H2 H4.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:1665]:
```suggestion
  - intros c H0 n t H c0 H1 H2 H3 H4; generalize c0 H2 H4.
```

File: theories/ordinals/Epsilon0/T1.v [hunk 9]
```diff
@@ -1820,67 +1660,71 @@ Proof.
...
+    destruct c1.
+    + rewrite (plus_zero_r);auto.
+    + intros H5 H6;  case (lt_eq_lt_dec c c1_1).
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:1668]:
```suggestion
    + intros H5 H6; case (lt_eq_lt_dec c c1_1).
```

File: theories/ordinals/Epsilon0/T1.v [hunk 10]
```diff
@@ -1933,53 +1778,49 @@ Qed.
...
-     +  intro H.
-        apply nf_inv3 in H. 
-        red in H.
-        unfold lt_b in H. 
-        rewrite compare_rev . 
-        destruct  (compare b1 (ocons a1 n a2)); try discriminate. 
-        reflexivity. 
+     + intro H.
+       apply nf_inv3 in H.
+       now apply compare_gt_iff in H as ->.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:1791]:
```suggestion
       now apply nf_inv3, compare_gt_iff in H as ->.
```

File: theories/ordinals/Epsilon0/T1.v [hunk 11]
```diff
@@ -2243,71 +2096,78 @@ Qed.
...
 
-Lemma phi0_mono : forall a b, le a  b  -> le (phi0 a) ( phi0 b).
+Lemma phi0_mono :
+  forall a b, le a b -> le (phi0 a) ( phi0 b).
 Proof.
-  intros a b H; destruct (le_lt_or_eq _ _ H).
-  -  subst b; auto with T1. 
-  -  apply lt_le_incl;  auto with T1.
+  intros a b [Hlt | Heq].
+  - apply lt_incl_le. auto with T1.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:2115]:
```suggestion
  - apply lt_incl_le; auto with T1.
```

File: theories/ordinals/Epsilon0/T1.v [hunk 12]
```diff
@@ -2653,69 +2515,104 @@ Proof.
...
-      apply tail_lt;auto.      
+Ltac compare_destruct_eqn a b H :=
+  destruct (compare a b) eqn: H;
+  [ apply compare_eq_iff in H as <-
+  | apply compare_lt_iff in H
+  | apply compare_gt_iff in H
+  ].
+
+Tactic Notation "compare" "destruct" constr(a) constr(b) "as" ident(H) :=
+  compare_destruct_eqn a b H.
```
Comment (start974) [inline theories/ordinals/Epsilon0/T1.v:2527]: Try to move in comparable class

File: theories/ordinals/Prelude/Comparable.v [hunk 13]
```diff
@@ -0,0 +1,530 @@
...
+
+  Lemma compare_lt_irrefl (a: A):
+    ~compare a a = Lt.
+  Proof.
+    intro H.
+    now apply compare_lt_iff, lt_irrefl in H.
+  Qed.
+
+  (* Relation Eq *)
+  Definition eq_b {comparable : Comparable lt le compare} (a b: A): bool :=
```
Comment (start974) [inline theories/ordinals/Prelude/Comparable.v:87]: Try to use attribute ["using"](https://coq.inria.fr/refman/proofs/writing-proofs/proof-mode.html#coq:attr.using), in all Definition

File: theories/ordinals/Schutte/Correctness_E0.v [hunk 14]
```diff
@@ -2,22 +2,23 @@
   into the set of Schutte's countable ordinal numbers stricly less than
   epsilon0.
 
-  Pierre Cast�ran, Univ. Bordeuwx and LaBRI
+  Pierre Cast?ran, Univ. Bordeuwx and LaBRI
```
Comment (start974) [inline theories/ordinals/Schutte/Correctness_E0.v:5]:
```suggestion
  Pierre Castéran, Univ. Bordeuwx and LaBRI
```

File: theories/ordinals/Schutte/Correctness_E0.v [hunk 15]
```diff
@@ -2,22 +2,23 @@
...
 
    This is intented to be a validation of main constructions and functions 
    designed for the type [T1].
 
 *)
 
 (*  Pierre Casteran 
-    LaBRI, Universit� Bordeaux 1
+    LaBRI, Universit? Bordeaux 1
```
Comment (start974) [inline theories/ordinals/Schutte/Correctness_E0.v:13]:
```suggestion
    LaBRI, Université Bordeaux 1
```

File: theories/ordinals/Epsilon0/Hprime.v [hunk 16]
```diff
@@ -454,7 +454,8 @@ Remark H'_non_mono1 :
                           (H'_ alpha k <= H'_ beta k)%nat).
 Proof.
  intros H ;specialize (H 42 omega 3).
- assert (H0 :(42 o<= omega)%e0) by (repeat split; auto).  
+ assert (H0 :(42 o<= omega)%e0). repeat split; auto.  
+  compute. now left.
```
Comment (start974) [inline theories/ordinals/Epsilon0/Hprime.v:458]:
```suggestion
 compute. now left.
```

File: theories/ordinals/Epsilon0/Paths.v [hunk 17]
```diff
@@ -2544,21 +2542,20 @@ Section Constant_to_standard_Proof.
...
 
 
   Remark Rem05 : P t = false.
   Proof.
-    unfold P,  le_b,  lt_b;
-      replace (T1.compare (standard_gnaw (S n) alpha t) beta) with Datatypes.Lt.
-    - reflexivity.
-    - rewrite compare_Lt_eq; auto; destruct Rem03; tauto.
+    unfold P, le_b, lt_b;
+    enough (T1.compare (standard_gnaw (S n) alpha t) beta = Datatypes.Lt) as -> by reflexivity.
```
Comment (Zimmi48) [inline theories/ordinals/Epsilon0/Paths.v:2556]: When the proof is `by reflexivity`, no need to use `replace` or `enough`, you can use `change`:

```suggestion
    change (T1.compare (standard_gnaw (S n) alpha t) beta) with (Datatypes.Lt).
```

File: theories/ordinals/Epsilon0/Hprime.v [hunk 18]
```diff
@@ -454,7 +454,8 @@ Remark H'_non_mono1 :
                           (H'_ alpha k <= H'_ beta k)%nat).
 Proof.
  intros H ;specialize (H 42 omega 3).
- assert (H0 :(42 o<= omega)%e0) by (repeat split; auto).  
+ assert (H0 :(42 o<= omega)%e0). repeat split; auto.  
+ compute. now left.
```
Comment (Zimmi48) [inline theories/ordinals/Epsilon0/Hprime.v:458]:
```suggestion
 assert (H0 :(42 o<= omega)%e0). { repeat split; auto.  
 compute. now left. }
```

File: theories/ordinals/Schutte/Correctness_E0.v [hunk 19]
```diff
@@ -2,22 +2,23 @@
   into the set of Schutte's countable ordinal numbers stricly less than
   epsilon0.
 
-  Pierre Cast�ran, Univ. Bordeuwx and LaBRI
+  Pierre Castéran, Univ. Bordeuwx and LaBRI
```
Comment (Zimmi48) [inline theories/ordinals/Schutte/Correctness_E0.v:5]:
```suggestion
  Pierre Castéran, Univ. Bordeaux and LaBRI
```

File: theories/ordinals/Epsilon0/T1.v [hunk 20]
```diff
@@ -1081,160 +1026,53 @@ Qed.
...
-  rewrite compare_rev, <- lt_iff.
-  now destruct (compare _ _).
+  destruct (lt_eq_lt_dec alpha beta) as [[Hlt | Heq]| Hgt]; symmetry.
+  + now apply compare_lt_iff.
+  + now apply compare_eq_iff.
+  + now apply compare_gt_iff.
 Qed.
 
+Check eq_b.
+Check eq_b_iff.
```
Comment (Zimmi48) [inline theories/ordinals/Epsilon0/T1.v:1067]:
```suggestion
```

File: theories/ordinals/Epsilon0/Paths.v (hunk 17 above)
Comment (start974) [reply theories/ordinals/Epsilon0/Paths.v]: Ok I will reverse, this modification.

**Comment by Casteran** [comment]
I agree.  Simple_LexProd is now useless in the proof of distributivity.
OK for all the proposed changes.
